US06759428B2
Triphenylphosphine (1.15 g, 4.39 mmol) and N-bromosuccinimide (0.79 g, 4.39 mmol) were added to a 0° C. solution of N-Cbz-diethanolamine (1 g, 4.18 mmol) in 40 ml of methylene chloride. The reaction was stirred at room temperature for 4 hours and then cooled to 0° C. 2,6-Lutidine (0.97 ml, 8.36 mmol) was added, followed by the dropwise addition of triisopropylsilyl triflate (1.35 ml, 5 mmol). The reaction was stirred at room temperature for 12 h, diluted with water, and concentrated under vacuum and the residue was extracted with ethyl acetate (2×50 ml). The organic layer was washed with 0.5 M HCl, saturated sodium bicarbonate, brine and dried over sodium sulfate. Evaporation of the solvent followed by chromatography (SiO2 Biotage 40 M, 3%-5% ethyl acetate/hexanes) gave (2-bromo-ethyl)-(2-triisopropylsilanyloxy-ethyl)-carbamic acid benzyl ester (400 mg) as a clear oil.

reactant | Triphenylphosphine | 4.39 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 4.39 mmol, 0.79 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-Cbz-diethanolamine | 4.18 mmol, 1 g | C(=O)(OCC1=CC=CC=C1)N(CCO)CCO | C12H17NO4
reactant | 2,6-Lutidine | 8.36 mmol, 0.97 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropylsilyl triflate | 5 mmol, 1.35 ml | O(S(=O)(=O)C(F)(F)F)[Si](C(C)C)(C(C)C)C(C)C | C10H21F3O3SSi
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (2-bromo-ethyl)-(2-triisopropylsilanyloxy-ethyl)-carbamic acid benzyl ester | 400 mg | C(C1=CC=CC=C1)OC(N(CCO[Si](C(C)C)(C(C)C)C(C)C)CCBr)=O | C21H36BrNO3Si
